US07887990B2
A 25 mL reactor was charged with 1.50 g (5.6 mmol) of t-butyl 2,2-difluoro-3-hydroxypentanoate and 15 mL of chloroform, 10 mg of NONFLEX MBP, 1.17 g (11.2 mmol, 2 eq) of methacrylic chloride, and 0.87 g (8.6 mmol, 1.5 eq) of triethylamine, followed by stirring at 55° C. for 24 hr. Then, 15 mL of water was added, followed by extraction with chloroform one time. The obtained organic layer was washed with saturated sodium hydrogencarbonate and water, followed by removal of water with magnesium sulfate. After conducting filtration, chloroform was distilled off, thereby obtaining 1.57 g of the target 1-(t-butoxycarbonyl)-1,1-difluoro-2-butyl methacrylate. Upon this, purity was 58%, and yield was 58%.

reactant | t-butyl 2,2-difluoro-3-hydroxypentanoate | 5.6 mmol, 1.50 g | FC(C(=O)OC(C)(C)C)(C(CC)O)F | C9H16F2O3
reactant | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
reactant | methacrylic chloride | 11.2 mmol, 1.17 g, 2 eq | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | triethylamine | 8.6 mmol, 0.87 g, 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | water | 15 mL | O | H2O
product | 1-(t-butoxycarbonyl)-1,1-difluoro-2-butyl methacrylate | yield was 58% | C(C(=C)C)(=O)OC(C(F)(F)C(=O)OC(C)(C)C)CC | C13H20F2O4
